US06222004B1
0.0215 mols of α,α′-dimethyl-α,α,α′,α′-tetrakis(4-hydroxyphenyl)-p-xylene (produced from 1,4-diacetylbenzene and phenol and having a melting point of 307° C.), 9.2 mols of bisphenol A, 9.4 liters of an aqueous solution of 2.0 N sodium hydroxide, and 8 liters of dichloromethane were put into a 50 liters container equipped with a stirrer, and stirred therein, to which phosgene was introduced for 30 minutes. Next, 0.44 mols of bisphenol A, 0.022mols of triethylamine, and 4.5 liters of an aqueous solution of 0.2 N sodium hydroxide were added thereto, and reacted for 40 minutes, and thereafter the aqueous phase and the organic phase in the reaction mixture were separated from each other. Thus was prepared a dichloromethane solution of an oligocarbonate.

reactant | 1,4-diacetylbenzene | C(C)(=O)C1=CC=C(C=C1)C(C)=O | C10H10O2
reactant | phenol | C1(=CC=CC=C1)O | C6H6O
product | α,α′-dimethyl-α,α,α′,α′-tetrakis(4-hydroxyphenyl)-p-xylene | 0.0215 mols | CC(C1=CC=C(C=C1)C(C1=CC=C(C=C1)O)(C1=CC=C(C=C1)O)C)(C1=CC=C(C=C1)O)C1=CC=C(C=C1)O | C34H30O4
